US07612114B2
2-Chloro-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide
Synthesized from ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (100 mg) and chloroacetyl chloride (0.04 ml) according to an analogous synthetic method to Preparation Example 87, the title compound (133 mg) was obtained.

reactant | ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 100 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
reactant | chloroacetyl chloride | 0.04 ml | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | 133 mg | ClCC(=O)N(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC | C22H26ClNO3
